US05866611
A solution of N-isopropyl-3-(2-allylphenoxy)propylamine hydrobromide (313 mg) in ethanol was hydrogenated at ambient temperature and pressure for 3 hours using a catalyst of palladium on carbon (10% w/w, 30 mg). The catalyst was removed by filtration and the filtrate evaporated to give a solid which was crystallised from a mixture of propan-2-ol and diethyl ether to give N-isopropyl-3-(2-propylphenoxy)propylamine hydrogen bromide as a colourless solid (204 mg), m.p. 89°-90°; microanalysis, found: C, 56.6; H, 8.2; N, 4.43%; C15H25NO.HBr requires: C,57.0; H, 8.3; N, 4.70%; NMR([CD3 ]2SO): 0.92(3H,t), 1.25(6H,d), 1.55(2H,m), 2.10(2H,m), 2.51(2H,m), 3.10(2H,t), 3.31(1H,m), 4.05(2H,t), 6.90(2H,m), 7.13(1H,m) and 8.46(2H,m); m/z 236(M+H).

reactant | N-isopropyl-3-(2-allylphenoxy)propylamine hydrobromide | 313 mg | Br.C(C)(C)NCCCOC1=C(C=CC=C1)CC=C
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | 30 mg | [Pd] | Pd
product | N-isopropyl-3-(2-propylphenoxy)propylamine hydrogen bromide | 204 mg | Br.C(C)(C)NCCCOC1=C(C=CC=C1)CCC | InChI=1S/C15H25NO.BrH/c1-4-8-14-9-5-6-10-15(14)17-12-7-11-16-13(2)3;/h5-6,9-10,13,16H,4,7-8,11-12H2,1-3H3;1H
